US06914074B2
2-Methoxy-6-(4-methoxyphenyl)-1-fluoronaphthalene
To a solution of 2-methoxy-6-(4-methoxyphenyl)-1-bromonaphthalene (1.28 g, 3.72 mmol) in THF (25 mL) at −78° C. was slowly added n-butyl lithium (1.9 mL of 2.5 N in hexanes). The resulting solution was stirred at −78° C. for thirty minutes and a solution of N-fluorobenzenesulfonimide (1.40 g, 4.5 mmol) in THF (10 mL) was added. After 2 additional hr at −78° C., the reaction was warmed to room temperature, poured in water, and extracted with ethyl acetate (2×250 mL). The combined organic layers were washed with water, dried over sodium sulfate, filtered, evaporation of the solvent, and purification by silica chromatography (5% THF—hexanes) yielded 0.66 g (63%) of a white solid: mp 150-155° C.; 1H NMR (CDCl3): δ 3.88 (3H, s), 4.04 (3H, s), 7.02 (2H, d, J=8.69 Hz), 7.28-7.34 (1H, m), 7.62-7.67 (3H, m), 7.74 (1H, dd, J=1.60 Hz, J=8.79 Hz), 7.93 (1H, s), 8.09 (1H, d, J=8.77 Hz).

reactant | 2-methoxy-6-(4-methoxyphenyl)-1-bromonaphthalene | 3.72 mmol, 1.28 g | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)Br | C18H15BrO2
reactant | n-butyl lithium | 2.5 N, 1.9 mL | C(CCC)[Li]
reactant | N-fluorobenzenesulfonimide | 4.5 mmol, 1.40 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-Methoxy-6-(4-methoxyphenyl)-1-fluoronaphthalene | 0.66 g, 63% | COC1=C(C2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC)F | C18H15FO2
